US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-chlorobenzaldehyde and commercial 4-methoxyacetophenone, 3-(4-chlorophenyl)-1-(4-methoxyphenyl)-prop-2-en-1-one was obtained as yellow solid.

reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-methoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
product | 3-(4-chlorophenyl)-1-(4-methoxyphenyl)-prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)OC | C16H13ClO2
